US08802688B2
Step 1: methyl 3-chloro-1H-pyrrolo[3,2-b]pyridine-6-carboxylate
To a 0° C. solution of methyl 1H-pyrrolo[3,2-b]pyridine-6-carboxylate (1.00 g, 5.68 mmol) in N,N-dimethylformamide (15 mL) was added N-chlorosuccinimide (895 mg, 5.96 mmol). The reaction was allowed to gradually warm to room temperature and stir overnight. The reaction was diluted with water (125 mL) and stirred for 20 minutes. The resulting solid was collected by filtration, washed with water, and dried under vacuum to give the title compound (1.11 g, 93%) as an orange powder. +ESI (M+H) 211.0; 1H NMR (400 MHz, DMSO-d6, δ): 11.99 (br. s., 1 H), 8.92 (d, J=2.0 Hz, 1 H), 8.31 (d, J=1.8 Hz, 1 H), 8.08 (d, J=3.1 Hz, 1 H), 3.88 (s, 3 H).

reactant | methyl 1H-pyrrolo[3,2-b]pyridine-6-carboxylate | 5.68 mmol, 1.00 g | N1C=CC2=NC=C(C=C21)C(=O)OC | C9H8N2O2
reactant | N-chlorosuccinimide | 5.96 mmol, 895 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 125 mL | O | H2O
product | methyl 3-chloro-1H-pyrrolo[3,2-b]pyridine-6-carboxylate | 1.11 g, 93% | ClC1=CNC=2C1=NC=C(C2)C(=O)OC | C9H7ClN2O2
